US07776897B2
Hydrazine monohydrate (2.6 ml) was added to an ethanol (10 ml) solution of ethyl 2-methyl-2-(2-thienyl)propanoate (530 mg), followed by stirring at 70° C. for 48 hours. After the reaction solution and ethyl acetate were added to water, the organic layer was separated. Furthermore, the organic layer washed with saturated brine and, after drying over anhydrous sodium sulfate and filtration, the solvent was removed by evaporation under reduced pressure to obtain 447 mg of 2-methyl-2-(2-thienyl)propanohydrazide (colorless oil).

reactant | Hydrazine monohydrate | 2.6 ml | O.NN
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | ethyl 2-methyl-2-(2-thienyl)propanoate | 530 mg | CC(C(=O)OCC)(C)C=1SC=CC1 | C10H14O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-methyl-2-(2-thienyl)propanohydrazide | 447 mg | CC(C(=O)NN)(C)C=1SC=CC1 | C8H12N2OS
